US08710046B2
To a solution of methyl 3-formyl-1H-indazole-4-carboxylate (49.5 g, 242 mmol) was added cesium carbonate (158 g, 485 mmol) in DMF (750 mL) at 0° C. The mixture was stirred under an atmosphere of nitrogen for 15 min. To this solution were added 4-methoxybenzyl bromide (41.6 g, 267 mmol) and sodium iodide (7.3 g, 48.5 mmol). The resulting mixture continued to stir for 10 min and then warmed to room temperature and stirred for 2.5 h. The mixture was filtered to remove solid cesium carbonate and the filtrate was quenched with sat. aqueous sodium chloride (200 mL) and extracted with diethyl ether (3×500 mL). The combined organic layers were washed with brine (3×200 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 10 to 25% ethyl acetate in hexanes) to afford methyl 3-formyl-1-(4-methoxybenzyl)-1H-indazole-4-carboxylate (41.8 g, 53%): 1H NMR δ (300 MHz, CDCl3) 10.53 (s, 1H), 7.77 (dd, J=7.2, 1.0 Hz, 1H), 7.58 (d, J=9.0, 1.0 Hz, 1H), 7.44 (dd, J=9.0, 7.20, Hz, 1H), 7.20 (dd, J=6.6, 2.1 Hz, 2H), 6.89 (dd, J=6.9, 2.1 Hz, 2H), 5.68 (s, 2H), 4.01 (s, 3H), 3.77 (s, 3H); MS (ESI+) m/z 325 (M+H). In addition, methyl 3-formyl-2-(4-methoxybenzyl)-2H-indazole-4-carboxylate (24.2 g, 31%) was also isolated: 1H NMR δ (300 MHz, CDCl3) 10.88 (s, 1H), 8.10 (t, J=7.2 Hz, 2H), 7.42 (dd, J=9.0, 1.0 Hz, 1H), 7.36 (dd, J=9.0, 7.20, Hz, 2H), 6.82 (dd, J=6.6, 2.1 Hz, 2H), 6.07 (s, 2H), 4.01 (s, 3H), 3.77 (s, 3H); MS (ESI+) m/z 325 (M+H).

reactant | methyl 3-formyl-1H-indazole-4-carboxylate | 242 mmol, 49.5 g | C(=O)C1=NNC=2C=CC=C(C12)C(=O)OC | C10H8N2O3
reactant | cesium carbonate | 485 mmol, 158 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methoxybenzyl bromide | 267 mmol, 41.6 g | COC1=CC=C(CBr)C=C1 | C8H9BrO
reactant | sodium iodide | 48.5 mmol, 7.3 g | [I-].[Na+]
solvent | DMF | 750 mL | CN(C)C=O | C3H7NO
product | methyl 3-formyl-1-(4-methoxybenzyl)-1H-indazole-4-carboxylate | 41.8 g, 53% | C(=O)C1=NN(C=2C=CC=C(C12)C(=O)OC)CC1=CC=C(C=C1)OC | C18H16N2O4
